US07229999B2
A mixture of 1.5 g (6 mmol) 5-bromo-6-chloro-nicotinic acid methyl ester, 1.8 g (30 mmol) propanol, 1.82 g (12 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene in 6 mL THF was heated to 74° C. over night. Evaporation of THF was followed by addition of water and ethyl acetate. The organic phase was washed with 1M KHSO4 aq. and the combined aqueous phases re-extracted with ethyl acetate. The combined organic phases were dried with MgSO4 and evaporated to dryness. The crude intermediate was used in the consecutive step without further purification. The residue was partitioned to affect several consecutive reactions and ½ of the residue, 856 mg (4.49 mmol) 2,4-dichloro-phenylboronic acid, 109 mg (0.15 mmol) [1,1′-bis(diphenylphospino)ferrocene] palladium(II) dichloride dichloromethane complex (1:1), 4.49 mL 2N Na2CO3 aq., in 10 mL toluene and 4.5 mL water was heated to 80° C. over night. KOH was added and heating to 80° C. was continued for 2 h. The mixture was acidified with 4N HCl aq. and extracted with ethyl acetate and evaporated. The residue was purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/HCOOH. The combined product fractions were evaporated to yield 236 mg of 5-(2,4-dichloro-phenyl)-6-propoxy-nicotinic acid. MS (m/e): 324.2 (M−H).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | 6 mmol, 1.5 g | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | propanol | 30 mmol, 1.8 g | C(CC)O | C3H8O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 12 mmol, 1.82 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2,4-dichloro-phenylboronic acid | 4.49 mmol, 856 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 2N, 4.49 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | KOH | [OH-].[K+]
reactant | HCl | 4N | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 4.5 mL | O | H2O
product | 5-(2,4-dichloro-phenyl)-6-propoxy-nicotinic acid | 236 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=NC=C(C(=O)O)C1)OCCC | C15H13Cl2NO3
